US05002961
2,3-Dihydro-2-oxo-4,N,N-trimethyl-1H-imidazole-5-carboxamide
A solution of 15.8 g (0.1 mol) of N,N-dimethyl-2-(hydroxyimino)-3-oxobutanamide in 400 ml of ethanol and 100 ml of 2N hydrochloric acid over 2 g of catalyst (5% palladium on charcoal) is hydrogenated in a Paar shaker until 1 molar equivalent of hydrogen is taken up (3-5 hours). The catalyst is removed by filtration. A solution of 16.2 g (0.2 mol) of potassium cyanate in 80 ml of water is added, the solution is refluxed for 1 hour and concentrated until the product crystallizes. Recrystallization from 50% aqueous ethanol gives the title compound, m.p. 244°-246° C. (dec).

reactant | N,N-dimethyl-2-(hydroxyimino)-3-oxobutanamide | 0.1 mol, 15.8 g | CN(C(C(C(C)=O)=NO)=O)C | C6H10N2O3
reactant | hydrogen | [H][H] | H2
reactant | potassium cyanate | 0.2 mol, 16.2 g | [O-]C#N.[K+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
product | 2,3-Dihydro-2-oxo-4,N,N-trimethyl-1H-imidazole-5-carboxamide | O=C1NC(=C(N1)C)C(=O)N(C)C | C7H11N3O2
